US05559141
b) 4-[3-(4-cyanophenyl)-3-(4-trifiuoromethylphenyl)propyl]-1H-imidazole
4-[3-(4-cyanophenyl)-3-(4-trifiuoromethylphenyl)-2-propenyl]-1H-imidazole is hydrogenated in ethanol using 10% Pd/C as a catalyst to give the product.

reactant | 4-[3-(4-cyanophenyl)-3-(4-trifiuoromethylphenyl)-2-propenyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(=CCC=1N=CNC1)C1=CC=C(C=C1)C(F)(F)F | C20H14F3N3
catalyst | ethanol | C(C)O | C2H6O
product | 4-[3-(4-cyanophenyl)-3-(4-trifiuoromethylphenyl)propyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(CCC=1N=CNC1)C1=CC=C(C=C1)C(F)(F)F | C20H16F3N3
